US04224344
A mixture of (9,10-dihydro-9,10-methano-9-anthryl)-acetic acid ethyl ester (125 mg) and lithium aluminum hydride (80 mg) in ether (6 ml) was stirred at room temperature for 1 hour. Excess lithium aluminum hydride was decomposed by addition of water. The reaction mixture was diluted with ethyl acetate, dried over anhydrous sodium sulfate and evaporated to dryness to give crystals of 9-β-hydroxyethyl-9,10-dihydro-9,10-methanoanthracene. M.P. 99°-100.5° C.

reactant | (9,10-dihydro-9,10-methano-9-anthryl)-acetic acid ethyl ester | 125 mg | C(C)OC(CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2)=O | C19H18O2
reactant | lithium aluminum hydride | 80 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | ether | 6 ml | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-β-hydroxyethyl-9,10-dihydro-9,10-methanoanthracene | OCCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C17H16O
